US05834468
4-[2-benzyloxybenzylthio]benzoic acid (6.3 g) and oxalyl chloride (2.26 g) were stirred in dichloromethane (100 ml) for 18 hours. The solvent was evaporated to give 4-[2-benzyloxybenzylthio]benzoylchloride which was dissolved in dichloromethane.

reactant | 4-[2-benzyloxybenzylthio]benzoic acid | 6.3 g | C(C1=CC=CC=C1)OC1=C(CSC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C21H18O3S
reactant | oxalyl chloride | 2.26 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-[2-benzyloxybenzylthio]benzoylchloride | C(C1=CC=CC=C1)OC1=C(CSC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C21H17ClO2S
